US06635658B2
To a −78° C. solution of {4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidin-1-yl}-morpholin-4-yl-methanone (300 mg, 0.72 mmol) and tetrabutylammonium iodide (292 mg, 0.79 mmol) in dichloromethane (20 mL) under an inert atmosphere was added boron trichloride (1M, 2.5 mL, 2.5 mmol) dropwise. The reaction was warmed to room temperature and stirred for 2.5 h. The reaction was quenched by slow addition of water and the organic layer separated and dried (MgSO4). This was concentrated onto silica (1.5 g) and placed on top of a flash column. Chromatography eluting with 30% acetone in hexanes afforded {4-[(7-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidin-1-yl}-morpholin-4-yl-methanone (128 mg).

reactant | {4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidin-1-yl}-morpholin-4-yl-methanone | 0.72 mmol, 300 mg | COC1=CC=C2CCC(CC2=C1)N(C1CCN(CC1)C(=O)N1CCOCC1)CCC | C24H37N3O3
reactant | boron trichloride | 2.5 mmol, 1M, 2.5 mL | B(Cl)(Cl)Cl | BCl3
catalyst | tetrabutylammonium iodide | 0.79 mmol, 292 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | {4-[(7-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidin-1-yl}-morpholin-4-yl-methanone | 128 mg | OC1=CC=C2CCC(CC2=C1)N(C1CCN(CC1)C(=O)N1CCOCC1)CCC | C23H35N3O3
